* C:\Users\Kouhei\Documents\GitHub\hattori\Stim_simulation\LTspice\Draft1.asc
R1 N001 N002 50
R2 0 N002 50
R3 N001 N003 50
R4 0 N003 50
R N002 N003 50
V1 N001 0 5
.dc V1 0 10 10ms
.backanno
.end
